US07268230B2
tert-Butyl 4-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}piperazine-1-carboxylate (2.0 g, 4.42 mmol) was dissolved in N,N-dimethylacetamide (60 ml) and 5-hydroxy-7-azaindole (651 mg, 4.86 mmol), (prepared as described for the starting material in Example 2), and potassium carbonate (671 mg, 4.86 mmol) added. The reaction mixture was heated at 85° C. for 3 hours. The mixture was cooled, filtered and concentrated under reduced pressure. Column chromatography of the residue (8-10% methanol/dichloromethane) gave 4-(7-azaindol-5-yloxy)-7-{3-[4-(tert-butoxycarbonyl)piperazin-1-yl]propoxy}-6-methoxyquinazoline (2.0 g, 85%) as a white solid.

reactant | tert-Butyl 4-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}piperazine-1-carboxylate | 4.42 mmol, 2.0 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C(=O)OC(C)(C)C | C21H29ClN4O4
reactant | 5-hydroxy-7-azaindole | 4.86 mmol, 651 mg | OC=1C=C2C=CNC2=NC1 | C7H6N2O
reactant | potassium carbonate | 4.86 mmol, 671 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 60 ml | CN(C(C)=O)C | C4H9NO
product | 4-(7-azaindol-5-yloxy)-7-{3-[4-(tert-butoxycarbonyl)piperazin-1-yl]propoxy}-6-methoxyquinazoline | 2.0 g, 85% | N1C=CC2=CC(=CN=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C(=O)OC(C)(C)C | C28H34N6O5
